US08809389B2
Synthesis of 1-(but-2-ynyloxy)-6-propyl-3,4-dimethoxybenzene
Following the same procedure as in Example 7a) and 7b), 3.92 g (0.02 moles) of 1-hydroxy-6-propyl-3,4-dimethoxybenzene were reacted with 2.66 g (0.02 moles) of 1-bromo-2-butyne and 2.8 g (0.02 moles) of anhydrous potassium carbonate in 20 ml of acetone.

reactant | 1-hydroxy-6-propyl-3,4-dimethoxybenzene | 0.02 moles, 3.92 g | OC1=CC(=C(C=C1CCC)OC)OC | C11H16O3
reactant | 1-bromo-2-butyne | 0.02 moles, 2.66 g | BrCC#CC | C4H5Br
reactant | potassium carbonate | 0.02 moles, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-(but-2-ynyloxy)-6-propyl-3,4-dimethoxybenzene | C(C#CC)OC1=CC(=C(C=C1CCC)OC)OC | C15H20O3
